US04247556
1-(3-Diethylaminopropyl)-2-hydroxy-6-chloro-7-aza-benzimidazole.
The production was carried out in a manner analogous to Example 1 from 20 grams of 2-(3-diethylamino-propylamino)-3-amino-6-chloropyridine and 9 ml of ethyl chloroformate. M.P. of the hydrochloride of the title compound was 203°-205° C.; yield: 14 grams.

reactant | 2-(3-diethylamino-propylamino)-3-amino-6-chloropyridine | 20 grams | C(C)N(CCCNC1=NC(=CC=C1N)Cl)CC | C12H21ClN4
reactant | ethyl chloroformate | 9 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloride | Cl | ClH
product | 1-(3-Diethylaminopropyl)-2-hydroxy-6-chloro-7-aza-benzimidazole | C(C)N(CCCN1C(=NC2=C1N=C(C=C2)Cl)O)CC | C13H19ClN4O
